US06150391
Step 3: (1RS,3RS,5RS)-2-Methyl-3-[{5-(1,2,4-triazol-4-yl)-1H-indol-3-yl}methyl]-2,7-diazabicyclo[3.3.0]octane
A solution of (1RS,3RS,5RS)-2-methyl-3-[{5-(1,2,4-triazol-4-yl)-1H-indol-3-yl}methyl]-2,7-diazabicyclo[3.3.0]octane-7-carboxylic acid, ethyl ester (0.3452 g, 0.875 mmol) in concentrated hydrochloric acid (10 mL) was heated at reflux for 40 h, whilst stirring magnetically. After cooling, the reaction mixture was basified with 50% NaOH solution (8 mL) and extracted with CH2Cl2 (4×75 mL). The combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (alumina, CH2Cl2 --MeOH--NH3 (aq); 90:10:1) to give 0.2367 g (84%) of the title compound as a yellow gum. δH (360 MHz, CDCl3) 1.42 (1H, m), 1.87 (1H, m), 2.43-2.59 (2H, m), 2.54 (3H, s), 2.66 (1H, d, J=11.1 Hz), 2.77 (1H, m), 2.81-2.86 (1H, m), 2.99 (1H, m), 3.13 (1H, dd, J=3.7 and 14.2 Hz), 3.29 (1H, m), 3.46 (1H, m), 7.14-7.17 (2H, m), 7.49 (1H, d, J=8.4 Hz), 7.52 (1H, d, J=2.0 Hz), 8.47 (2H, s), 8.58 (1H, br s). m/e (ES+) 323 (M+H)+.

reactant | (1RS,3RS,5RS)-2-methyl-3-[{5-(1,2,4-triazol-4-yl)-1H-indol-3-yl}methyl]-2,7-diazabicyclo[3.3.0]octane-7-carboxylic acid, ethyl ester | 0.875 mmol, 0.3452 g | CN1C2CN(CC2CC1CC1=CNC2=CC=C(C=C12)N1C=NN=C1)C(=O)OCC | C21H26N6O2
reactant | NaOH | 8 mL | [OH-].[Na+]
solvent | hydrochloric acid | 10 mL | Cl | ClH
product | (1RS,3RS,5RS)-2-Methyl-3-[{5-(1,2,4-triazol-4-yl)-1H-indol-3-yl}methyl]-2,7-diazabicyclo[3.3.0]octane | 0.2367 g, 84% | CN1C2CNCC2CC1CC1=CNC2=CC=C(C=C12)N1C=NN=C1 | C18H22N6
